US06809097B1
A suspension of 4-chloro-7-methoxy-6-methoxycarbonylquinoline (0.252 g, 1 mmol), (prepared as described for the starting material in Example 55), and 2-fluoro-5-hydroxy-4-methylaniline (0.15 g, 1.2 mmol), (prepared as described for the starting material in Example 1), in cyclohexanol (5 ml) containing 1M ethereal hydrogen chloride (1.2 ml) was heated at 100° C. for 2 hours. The mixture was cooled to ambient temperature and diluted with ether. The solid was collected by filtration then absorbed onto silica using methylene chloride/methanol (1/1) containing ammonium hydroxide (1 ml). The product was eluted with methylene chloride/methanol (100/0 increasing to 94:6). Removal of the solvent by evaporation and trituration of the solid with ether followed by collection of the solid by filtration gave 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-methoxy-6-methoxycarbonylquinoline as a cream solid. (195 mg, 54%).

reactant | 4-chloro-7-methoxy-6-methoxycarbonylquinoline | 1 mmol, 0.252 g | ClC1=CC=NC2=CC(=C(C=C12)C(=O)OC)OC | C12H10ClNO3
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 1.2 mmol, 0.15 g | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
reactant | hydrogen chloride | 1M, 1.2 ml | Cl | ClH
solvent | cyclohexanol | 5 ml | C1(CCCCC1)O | C6H12O
solvent | ether | CCOCC | C4H10O
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-methoxy-6-methoxycarbonylquinoline | FC1=C(NC2=CC=NC3=CC(=C(C=C23)C(=O)OC)OC)C=C(C(=C1)C)O | C19H17FN2O4
